US07220773B2
To a solution of 2-chloro-5-iodophenol (509 mg, 2.00 mmol) in dimethylformamide were added potassium carbonate (415 mg, 3.00 mmol) and t-butyl bromoacetate (0.440 ml, 3.00 mmol) and the mixture was stirred for 1 hour at room temperature. Thereto was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with 10% aqueous citric acid solution, water, an aqueous saturated sodium hydrogencarbonate solution and an aqueous saturated sodium chloride solution in the order, and dried over magnesium sulfate. The solvent was removed and purified with silica gel chromatography (hexane:ethyl acetate, 20:1) to give t-butyl (2-chloro-5-iodophenoxy)acetate (851 mg, quantitatively) as a colorless oil.

reactant | 2-chloro-5-iodophenol | 2.00 mmol, 509 mg | ClC1=C(C=C(C=C1)I)O | C6H4ClIO
reactant | potassium carbonate | 3.00 mmol, 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl bromoacetate | 3.00 mmol, 0.440 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | t-butyl (2-chloro-5-iodophenoxy)acetate | ClC1=C(OCC(=O)OC(C)(C)C)C=C(C=C1)I | C12H14ClIO3
